US07232832B2
a) 2-Methoxy-8-trimethylsilanylethynyl-[1,5]naphthyridine
1,1,1-Trifluoro-methanesulfonic acid 6-methoxy-[1,5]naphthyridin-4-yl ester (10 g, 32 mmol) was partially dissolved in triethylamine (80 mL) and dichloromethane was added in small portions until solid was completely dissolved. The resulting solution was degassed and purged with nitrogen, then treated with (trimethylsilyl)acetylene (5 mL, 36 mmole), bis-(triphenylphosphine)palladium (II) chloride (456 mg, 0.65 mmole), and copper (I) iodide (125 mg, 0.65 mmol) at room temperature overnight. Reaction mixture was concentrated to near dryness, then redissolved in ethyl acetate and washed with water and brine. Insoluble material was filtered off and aqueous layer was dried over sodium sulfate, filtered and concentrated. The resulting brown thick oil was used without further purification.

reactant | 1,1,1-Trifluoro-methanesulfonic acid 6-methoxy-[1,5]naphthyridin-4-yl ester | 32 mmol, 10 g | COC=1N=C2C(=CC=NC2=CC1)OS(=O)(=O)C(F)(F)F | C10H7F3N2O4S
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | (trimethylsilyl)acetylene | 36 mmole, 5 mL | C[Si](C)(C)C#C | C5H10Si
solvent | triethylamine | 80 mL | C(C)N(CC)CC | C6H15N
catalyst | bis-(triphenylphosphine)palladium (II) chloride | 0.65 mmole, 456 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 0.65 mmol, 125 mg | [Cu]I
product | 2-Methoxy-8-trimethylsilanylethynyl-[1,5]naphthyridine | COC1=NC2=C(C=CN=C2C=C1)C#C[Si](C)(C)C | C14H16N2OSi
